US04237135
2-(4-Ethyl-1-piperazinyl)-4-phenylquinoline
A stirred suspension of 3.0 g of 4-phenyl-2-(1-piperazinyl)quinoline, 1.9 g of ethyl iodide and 1.1 g of sodium carbonate in 30 ml of methyl ethyl ketone was heated under reflux for 12 hours. The reaction mixture was concentrated under reduced pressure. To the residue was added water and the resulting mixture was extracted with ethyl acetate. The dried extracts were concentrated to give an oily residue, which was chromatographed on silica gel (30 g) using chloroform as an eluent. There was obtained the title compound (2.8 g, 85%), m.p. 87°-88° C.

reactant | 4-phenyl-2-(1-piperazinyl)quinoline | 3.0 g | C1(=CC=CC=C1)C1=CC(=NC2=CC=CC=C12)N1CCNCC1 | C19H19N3
reactant | ethyl iodide | 1.9 g | C(C)I | C2H5I
reactant | sodium carbonate | 1.1 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methyl ethyl ketone | 30 ml | C(C)C(=O)C | C4H8O
product | 2-(4-Ethyl-1-piperazinyl)-4-phenylquinoline | 2.8 g, 85% | C(C)N1CCN(CC1)C1=NC2=CC=CC=C2C(=C1)C1=CC=CC=C1 | C21H23N3
